US07220856B2
Preparation of (3S)-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-N-(phenylmethyl)-1H-azepine-1-acetamide
The mixtures of (3S)-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-acetic acid (50.0 mg, 0.1 mmol), benzyl amine (0.2 mL), HATU (50 mg), and diisopropylethyl amine (0.3 mL) in DMF (5 mL) was stirred at rt for 2 h. The reaction mixture was diluted with ethyl acetate (100 mL), washed with NaHCO3 (sat.) and water, dried over Na2SO4. Concentration in vacuo followed by flash chromatography afforded the title product. LC-MS: 564 (M++1). 1H NMR (CD3OD) δ 7.82 (d, 1H), 7.45 (s, 1H), 7.25 (m, 4H), 7.20 (m, 2H), 6.30 (s, 1H), 4.65 (d, 1H), 4.40 (s, 2H), 4.15 (m, 2H), 3.75 (m, 1H), 3.65 (m, 4H), 3.30 (m, 1H), 3.10 (m, 4H), 1.96 (m, 2H), 1.80 (m, 2H), 1.60 (m, 2H).

reactant | (3S)-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-acetic acid | 0.1 mmol, 50.0 mg | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)CC(=O)O)=O)Cl | C22H27ClN6O4
reactant | benzyl amine | 0.2 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | HATU | 50 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 0.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (3S)-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-N-(phenylmethyl)-1H-azepine-1-acetamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)CC(=O)NCC1=CC=CC=C1)=O)Cl | C29H34ClN7O3
